US08080568B1
To a stirred solution of 2-(bromomethyl)-3-nitrobenzonitrile (1.10 g, 4.56 mmol) and morpholine (0.80 g, 9.13 mmol) in CH2Cl2 (15 mL) was added triethylamine (1.85 g, 18.25 mmol) dropwise at 0° C. The mixture was stirred at room temperature for 1.5 h and evaporated to dryness under reduced pressure. The residue was diluted with water (10 mL) and extracted with CH2Cl2 (3×50 mL). The CH2Cl2 solution was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 2-(morpholinomethyl)-3-nitrobenzonitrile (1.02 g, 90%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 7.90 (br d, 1H, J=8.0 Hz), 7.84 (dd, 1H, J=8.0, 1.2 Hz), 7.56 (t, 1H, J=8.0 Hz), 3.99 (s, 2H), 3.60 (br t, 4H, J=4.4 Hz), 2.46 (br s, 4H).

reactant | 2-(bromomethyl)-3-nitrobenzonitrile | 4.56 mmol, 1.10 g | BrCC1=C(C#N)C=CC=C1[N+](=O)[O-] | C8H5BrN2O2
reactant | morpholine | 9.13 mmol, 0.80 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 18.25 mmol, 1.85 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(morpholinomethyl)-3-nitrobenzonitrile | 1.02 g, 90% | O1CCN(CC1)CC1=C(C#N)C=CC=C1[N+](=O)[O-] | C12H13N3O3
